US04898872
1-(3-Methyl-4-nitrophenyl)-2-methylbenzimidazole
A mixture of 5-fluoro-2-nitrotoluene (10.3 g), 2-methylbenzimidazole (8.7 g) and sodium carbonate (7.5 g) was heated with stirring in dimethylformamide (40 cm3) at 130° for 16 hours under nitrogen. The cooled mixture was evaporated in vacuo, water (50 cm3) added and the mixture extracted with methanol:chloroform, 1:10 by volume. The combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate. Combination and evaporation of appropriate fractions afforded a solid which was recrystallised from hexane/acetone to give the title compound, m.p. 144°-6°, (10.65 g).

reactant | 5-fluoro-2-nitrotoluene | 10.3 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 2-methylbenzimidazole | 8.7 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | sodium carbonate | 7.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | 1-(3-Methyl-4-nitrophenyl)-2-methylbenzimidazole | CC=1C=C(C=CC1[N+](=O)[O-])N1C(=NC2=C1C=CC=C2)C | C15H13N3O2
